US07799822B2
Synthesized according to general procedure 5, method B. The reaction was set up with 4.5 mmol 4-(piperazin-1-yl)-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide, 4.5 mmol (R)-2-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)propanoic acid, 5.5 mmol HATU, 5.4 mmol sodium bicarbonate and 12 mL (1:1) DMF:methylene dichloride to get (R)-4-(4-(2-(6-Chloro-3,4-dihydroquinolin-1(2H)-yl)propanoyl)piperazin-1-yl)-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide as a white solid (1.5 g, 61% yield). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=547.5; tR=3.44 min. 1H NMR (400 MHz, DMSO-d6) δ 8.48 (s, 1H), 7.58 (d, J=9.1 Hz, 2H), 7.04-6.96 (m, 4H), 6.78 (d, J=9.1 Hz, 1H), 4.88-4.84 (m, 1H), 3.73-3.69 (m, 1H), 3.58-3.53 (m, 1H), 3.43-3.37 (m, 4H), 3.26-3.18 (m, 2H), 3.11-2.95 (m, 2H), 2.73-2.64 (m, 2H), 1.84-1.73 (m, 2H), 1.84-1.08 (m, 3H).

reactant | 4-(piperazin-1-yl)-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | 4.5 mmol | N1(CCNCC1)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NS1 | C12H15N5O2S2
reactant | (R)-2-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)propanoic acid | 4.5 mmol | ClC=1C=C2CCCN(C2=CC1)[C@@H](C(=O)O)C | C12H14ClNO2
reactant | HATU | 5.5 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | sodium bicarbonate | 5.4 mmol | C([O-])(O)=O.[Na+]
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | (R)-4-(4-(2-(6-Chloro-3,4-dihydroquinolin-1(2H)-yl)propanoyl)piperazin-1-yl)-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | 1.5 g, 61% yield | ClC=1C=C2CCCN(C2=CC1)[C@@H](C(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NS1)C | C24H27ClN6O3S2
